US08198267B2
1-(2-Chloro-4-nitrophenyl)-3-methoxypyridin-2(1H)-one
15 g (120 mmol) of 3-methoxypyridone are dissolved in 120 ml of anhydrous dimethyl sulfoxide and admixed with 16.1 g (144 mmol) of potassium tert-butoxide with stirring. After 30 min, 21.0 g (120 mmol) of 3-chloro-4-fluoronitrobenzene are added and the mixture is heated to 80° C. After 16 h, the mixture is allowed to cool, admixed with 1N hydrochloric acid and extracted repeatedly with dichloromethane. The combined dichloromethane phases are washed with water and saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated to dryness under reduced pressure. The resulting residue is stirred with tert-butyl methyl ether and filtered. The solid is dried under reduced pressure. 22.8 g (60% of theory) of the desired compound are obtained.

reactant | 3-methoxypyridone | 120 mmol, 15 g | COC=1C(NC=CC1)=O | C6H7NO2
reactant | potassium tert-butoxide | 144 mmol, 16.1 g | CC(C)([O-])C.[K+]
reactant | 3-chloro-4-fluoronitrobenzene | 120 mmol, 21.0 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
product | 1-(2-Chloro-4-nitrophenyl)-3-methoxypyridin-2(1H)-one | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C(=CC=C1)OC)=O | C12H9ClN2O4
